US09447041B2
Preparation of Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (Compound of Formula, (IIj), Wherein R3 is ethyl)
To a 3-neck 250 mL round bottom flask was charged E/Z mixture of ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate (15 g, 432 mmol) and purged with N2. 10% Pd/C (50% wet; 2.34 g, 22.02 mmol) was charged and the contents degassed 3× with N2 followed by addition of ethyl acetate (120 mL, 1226 mmol). The solution was degassed 3× with N2 and followed by the pre-activation of the catalyst with the addition of formic acid (4.97 mL, 130 mmol). The mixture was allowed to stir for 1-2 minutes. Triethylamine (18.05 mL, 130 mmol) was charged drop-wise maintaining an internal temperature between about 24° C. to 30° C. The reaction was held at 30° C. for 1 h to allow for reaction completion. The reaction progression was monitored by HPLC. Upon reaction completion, the solution was cooled to 20° C. and the catalyst Pd/C was removed via vacuum filtration and rinsed with 30 mL of ethyl acetate. Water (90 mL) was charged to the filtrate and the biphasic mixture was partitioned. The organics were washed with water (2×90 mL), concentrated under vacuum in bath temp 40° C. to a minimum stir volume, chased with ethyl acetate (1×30 mL) and further concentrated under vacuum to a minimum stir volume. Ethyl acetate (22.5 mL) was charged to the crude and the resulting solution was heated to 60° C. Heptanes (67.5 mL) were charged maintaining the internal temperature at 60° C. whereupon crystallization was initiated. The slurry was cooled to 40° C. and aged for 1 h, further cooled to 5-10° C. and aged for 0.5 h. The slurry was filtered, the filter cake rinsed with heptanes (2×60 mL) and the solids dried in the vacuum oven set to 40° C. to afford the title compound (8.86 g, 79% yield) as light beige solids.

reactant | ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate | 432 mmol, 15 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(NC2C=C1)C(CC3)=CC(=O)OCC | C22H21NO3
reactant | ethyl acetate | 1226 mmol, 120 mL | C(C)(=O)OCC | C4H8O2
reactant | formic acid | 130 mmol, 4.97 mL | C(=O)O | CH2O2
reactant | Triethylamine | 130 mmol, 18.05 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 22.02 mmol, 2.34 g | [Pd] | Pd
product | Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 8.86 g, 79% yield | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
